data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_612058_0,[C:1](/[N:8]=[C:2](/[N:4]([H:9])[H:10])[O:7][C:3]([N:5]([H:11])[H:12])=[C:6]([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1](/[N:8]=[C:2](/[N:4]([H:9])[H:10])[C:6]([C:3]([N:5]([H:11])[H:12])=[O:7])([H:16])[H:17])([H:13])([H:14])[H:15],38.7111024999976
MR_161300_1,[C:1](/[C:3]([C:4]([C:2]([H:14])([H:15])[H:16])([N:7]([H:9])[H:11])[H:13])=[N:6]\[H:8])(=[N:5]\[H:10])[H:12]>>[C:1]([C:3](/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]/[H:9])=[N:6]\[H:8])([N:5]([H:10])[H:11])([H:12])[H:13],62.55359249997511
MR_543338_1,[C:1]1([H:12])([H:13])[N:2]([H:7])[C:6]1([C:5]([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])[H:14])[H:15]>>[C:1](=[N:2]/[H:7])(\[C:6]([C:5]([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])[H:14])([H:13])[H:15])[H:12],65.04414000000054
MR_307642_1,[C:1]([C:2]([H:11])([H:12])[H:13])([O:6][H:9])([O:7][H:10])[N:8]=[C:5]([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[H:19]>>[C:1]([C:2]([H:11])([H:12])[H:13])([O:6][H:9])[N:8][C:5]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[O:7][H:10],57.49468749997803
MR_81266_1,[C:1]([C:2]([H:11])([H:12])[H:13])(/[C:3](=[N:6]/[O:4][H:7])[H:10])([O:5][H:8])[H:9]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:3](/[N:6]([O:4][H:7])[O:5][H:8])[H:10])[H:9],73.10688749997553
MR_222321_0,[C:1]([N:7]([C:3](/[N:2]=[N:4]/[H:9])([N:5]([H:10])[H:11])[N:6]([H:12])[H:13])[H:8])([H:14])([H:15])[H:16]>>[C:1](/[N:7]=[C:3](/[N:2]([N:4]([H:8])[H:9])[N:5]([H:10])[H:11])[N:6]([H:12])[H:13])([H:14])([H:15])[H:16],52.90829000000073
MR_481273_0,[C@@:1]([C:2]([O:6][H:8])([H:12])[H:13])([N:3]([H:10])[H:11])([O:4][O:5][H:7])[H:9]>>[C:1]([C@:2]([O:4][O:5][H:7])([O:6][H:8])[H:12])([N:3]([H:10])[H:11])([H:9])[H:13],71.39004749999415
MR_159050_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([N:5]([H:11])[H:12])=[O:7])([N:4]([H:9])[H:10])[O:6][H:8]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([O:6][H:8])[C:3]([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[O:7]1,66.30290499999703
MR_60634_0,[C:1](/[N:5]=[C:2](/[N:3]([H:7])[H:8])[O:4][H:6])([H:9])([H:10])[H:11]>>[C:1]([N:5](/[C:2](=[N:3]\[H:7])[O:4][H:6])[H:8])([H:9])([H:10])[H:11],44.60834750001823
MR_469152_1,[C:1](/[C:6](=[C:7](\[C:2]([H:16])([H:17])[H:18])[C:5](=[C:8]([C:3]([H:19])([H:20])[H:24])[C:4]([H:21])([H:22])[H:23])[O:9][H:11])[O:10][H:12])([H:13])([H:14])[H:15]>>[C:1]([C:6]1([O:10][H:12])[C:7]([C:2]([H:16])([H:17])[H:18])=[C:5]([O:9][H:11])[C:8]1([C:3]([H:19])([H:20])[H:24])[C:4]([H:21])([H:22])[H:23])([H:13])([H:14])[H:15],40.88099749997653
MR_241078_1,[C:1]([N:5]([O:8][H:9])[H:10])([C:6]([C:2]([H:13])([H:14])[H:15])=[C:7]([C:3]([H:16])([H:17])[H:18])[C:4]([H:19])([H:20])[H:21])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[N:5]([O:8][H:9])[C@:6]1([C:2]([H:13])([H:14])[H:15])[C:7]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[H:10],68.21929000000964
MR_525367_2,[C:1]([C:2]([O:7][H:9])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[N:5]([O:6][H:8])[H:10]>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([N:5]([C:2]([O:7][H:9])([H:11])[H:12])[H:10])[O:6][H:8],71.9478950000125
MR_245781_0,[C:1]([C:3]([C:5]([C:2]([C:4]([H:18])([H:19])[H:20])([O:8][H:12])[H:14])([C:6](=[O:10])[H:17])[O:9][H:11])([H:15])[H:16])(=[O:7])[H:13]>>[C:1]([C:2]([C:4]([H:18])([H:19])[H:20])([O:8][H:12])[H:14])([C:3]([C:5]([C:6](=[O:10])[H:17])=[O:9])([H:15])[H:16])([O:7][H:11])[H:13],66.19936749993741
MR_237098_1,[C:1](\[N:3]([H:9])[H:10])([O:7]/[C:2]([N:4]([H:11])[H:12])=[C:6](\[N:5]([H:14])[H:15])[H:16])=[N:8]/[H:13]>>[C:1](\[N:3]([H:9])[H:10])([C@:6]([C:2]([N:4]([H:11])[H:12])=[O:7])([N:5]([H:14])[H:15])[H:16])=[N:8]/[H:13],48.49445499998012
MR_348049_1,[C:1]([C:3]([H:15])([H:16])[H:17])([N:4]([C:2]([H:12])([H:13])[H:14])/[C:5](=[N:7]/[H:10])[H:11])([O:6][H:8])[H:9]>>[C:1]([C:3]([H:15])([H:16])[H:17])([O:6][H:8])([N:7](/[C:5](=[N:4]/[C:2]([H:12])([H:13])[H:14])[H:11])[H:10])[H:9],63.28211999999056
MR_273556_2,[C:1]([C:2]([N:6]([H:15])[H:16])([N:7]([H:17])[H:18])[N:8]([H:19])[H:20])([N:3]([N:9]([H:21])[H:22])[H:10])([N:4]([H:11])[H:12])[N:5]([H:13])[H:14]>>[C:1]([C:2]([N:3]([N:9]([H:21])[H:22])[H:10])([N:6]([H:15])[H:16])[N:7]([H:17])[H:18])([N:4]([H:11])[H:12])([N:5]([H:13])[H:14])[N:8]([H:19])[H:20],73.26188000001224
MR_138198_0,[C:1]([C:3](=[C:5]([H:15])[H:16])[O:7][H:10])([C:4]([C:2]([H:12])([H:13])[H:14])=[O:8])([O:6][H:9])[H:11]>>[C:1](=[C:3](\[C:5]([C:4]([C:2]([H:12])([H:13])[H:14])=[O:8])([H:15])[H:16])[O:7][H:10])(\[O:6][H:9])[H:11],55.22941249999022
MR_75575_0,[C:1]([C:4]([N:3]([N:2]([O:5][H:7])[H:8])[H:9])=[O:6])([H:10])([H:11])[H:12]>>[C:1](/[C:4](=[N:3]/[H:9])[O:6][N:2]([O:5][H:7])[H:8])([H:10])([H:11])[H:12],63.0537100000322
MR_574706_1,[N:1](/[C:2](=[N:4]\[H:7])[H:8])([N:3]=[O:5])[H:6]>>[N:1](=[N:3]\[O:5]/[C:2](=[N:4]\[H:7])[H:8])\[H:6],38.06226749999496
MR_642266_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])=[C:5]([C:6](=[O:10])[H:12])[O:9][C:4]([O:7][H:11])=[O:8]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:4]([O:7][H:11])=[O:8])[C:5]([C:6](=[O:10])[H:12])=[O:9],63.45656500001383
